US04284644
5-Acetylspiro[benzo[b]furan-2(3H),1'-cyclopropane]-3-one (13.5 g.) was added to 300 ml. of aqueous solution of sodium hypochlorite. To the mixture was further added a small amount of surface active agent (polyoxyethylene octyl phenyl ether), and the mixture was stirred at 60° C. for 3 hours. After cooling, the reaction mixture was diluted with water, and to the mixture was added 40% aqueous solution of sodium hydrogen sulfite. The reaction mixture was made acidic with hydrochloric acid, and resulting crystals were collected by filtration. After washing with water and drying, the crystals were recrystallized from ethanol to give colorless needles of 5-carboxyspiro[benzo[b]furan-2(3H),1'-cyclopropane]-3-one (12.68 g.). m.p. 215°-228° C.

reactant | 5-Acetylspiro[benzo[b]furan-2(3H),1'-cyclopropane]-3-one | 13.5 g | C(C)(=O)C1=CC2=C(OC3(CC3)C2=O)C=C1 | C12H10O3
reactant | sodium hypochlorite | Cl[O-].[Na+]
reactant | polyoxyethylene octyl phenyl ether | C1(=CC=CC=C1)OCCCCCCCC.O(CC[*:2])[*:1]
reactant | sodium hydrogen sulfite | S(=O)(O)[O-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 5-carboxyspiro[benzo[b]furan-2(3H),1'-cyclopropane]-3-one | 12.68 g | C(=O)(O)C1=CC2=C(OC3(CC3)C2=O)C=C1 | C11H8O4
